2110-03-15 08:46:00 Physician Attending Progress Note
Chief Complaint: unresponsive, VT
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 54M s/p OTL tx with recent urosepsis admission (PsA ses MER)
   requiring SICU stay with acute kidney injury.  Yesterday went for
   routine liver biopsy, during which he had two apneic periods.
   Post-procedure had LOC, loss of pulse, CPR for less than 30 seconds.
   Initial rhythm SVT 160s, then sinus, then stable VT, then polymorphic
   VT.  150mg amio, 2gm Mg.  Converted to sinus brady.  To MICU.
   Overnight polymorphic VT multiple times, sometimes with LOC
   shocks.  Got dopamine for heartrate overdriving.
   Suspected due to reglan, celexa.  Hepatic USG no hematoma.  Vomited
   overnight, lethargic.
   24 Hour Events:
 PICC LINE - START [**2110-3-14**] 08:35 PM
 ULTRASOUND - At [**2110-3-15**] 12:30 AM
   Abd US check for bleeding.
 CARDIOVERSION/DEFIBRILLATION - At [**2110-3-15**] 12:43 AM
   200J , vfib
 CARDIOVERSION/DEFIBRILLATION - At [**2110-3-15**] 01:03 AM
   300 J
   History obtained from Patient
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Ibuprofen
   Unknown;
   Ciprofloxacin
   Tosades ;
   Last dose of Antibiotics:
   Infusions:
   Dopamine - 10 mcg/Kg/min
   Other ICU medications: heparin SC
   Other medications: Bactrim, morphine, pregabalin, flomax, vanc oral,
   tacro 0.5mg q 12.
   Changes to medical and family history: Pre-transplant eval without
   cardiac disease
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-3-15**] 08:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.9
   HR: 83 (53 - 170) bpm
   BP: 111/72(81) {73/43(50) - 127/77(90)} mmHg
   RR: 10 (7 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  1,150 mL
                                                                    671 mL
   PO:
                                                                    100 mL
           TF:
   IVF:
                                                                  1,050 mL
                                                                    321 mL
   Blood products:
   350 mL
   Total out:
                                                                    270 mL
                                                                    495 mL
   Urine:
                                                                    270 mL
                                                                    395 mL
   NG:
   100 mL
   Stool:
   Drains:
   Balance:
                                                                    880 mL
                                                                    176 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.37/43/238/21/0
   Physical Examination
   Appears chronically ill.  Oriented to person, place, date.
   JVP 6
   Heart is regular rate and rhythm.  Lungs clear anteriorly.  Abdomen
   soft, no tenderness.  1+ edema bilateral, warm.
   Neuro: Right pupil 1mm>than left, tongue with slight right deviation,
   otherwise CN intact.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.1 g/dL
   79 K/uL
   99 mg/dL
   3.4 mg/dL
   21 mEq/L
   4.9 mEq/L
   37 mg/dL
   110 mEq/L
   143 mEq/L
   28.9 %
   3.3 K/uL
        [image002.jpg]
                             [**2110-3-14**]  10:04 PM
                             [**2110-3-15**]  01:18 AM
                             [**2110-3-15**]  03:04 AM
   WBC
   2.9
   3.3
   Hct
   24.3
   28.9
   Plt
   62
   79
   Cr
   3.5
   3.4
   TropT
   0.21
   0.21
   TCO2
   26
   Glucose
   110
   99
   Other labs: PT / PTT / INR:13.6/35.1/1.2, CK / CKMB /
   Troponin-T:32//0.21, ALT / AST:[**4-17**], Alk Phos / T Bili:41/0.5, Lactic
   Acid:1.8 mmol/L, LDH:200 IU/L, Ca++:8.6 mg/dL, Mg++:3.2 mg/dL, PO4:4.3
   mg/dL; tacro 5
   CXR: left lung larger than right.
   Assessment and Plan
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE): resolving ATN, follow-up renal recs.  Hold diuretics
 CARDIAC ARREST: due to prolonged QT, suspect medications.  Hold
   medications.  Check 12 lead.  Keep electrolytes stable.  Cardiology
   consult.  Wean dopamine as QT allows
   Asymmetric Pupil: with tongue deviation to the right.  Check if it
   baseline, consider head CT.
   Nausea/vomiting: Discuss with liver team anti-emetic/pro-mobility [**Doctor Last Name **]
   ICU Care
   Nutrition: Hold TFs, if no more nausea start slow.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2110-3-14**] 08:00 PM
   PICC Line - [**2110-3-14**] 08:35 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2110-03-16 06:55:00 Physician Resident Progress Note
Chief Complaint: vtach
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2110-3-15**] 02:00 PM
   [**3-15**]
   [x ]ECG PM- QT decreased
   [x ]TTE- ef 20% most likely [**12-30**] cardioversion
   [x ]PM Mg and K- 3.3/4.7
   [x ]non con CT head- negative
   [x ]cards, liver, renal recs- decrease prograf to 0.5mg daily, 4mg
   rapamune, 2mg rapamune sunday, check rapamune level [**Last Name (LF) **], [**First Name3 (LF) **] not
   check prograf level anymore as plan to wean off by wednesday
   cards- wean dopamine sunday after they see patient keep K and Mg at
   good levelsm likely genetic defect triggered by reglan annd prograf
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Ibuprofen
   Unknown;
   Ciprofloxacin
   Tosades ;
   Last dose of Antibiotics:
   Vancomycin - [**2110-3-15**] 12:15 PM
   Infusions:
   Dopamine - 12.5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2110-3-15**] 03:03 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-3-16**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.5
   HR: 80 (70 - 90) bpm
   BP: 116/77(86) {106/69(78) - 126/89(98)} mmHg
   RR: 14 (8 - 19) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,794 mL
                                                                    298 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                    964 mL
                                                                    298 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,985 mL
                                                                    790 mL
   Urine:
                                                                  1,885 mL
                                                                    790 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                   -191 mL
                                                                   -492 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   144 K/uL
   10.2 g/dL
   202 mg/dL
   3.2 mg/dL
   26 mEq/L
   4.7 mEq/L
   34 mg/dL
   106 mEq/L
   140 mEq/L
   31.5 %
   6.3 K/uL
        [image002.jpg]
                             [**2110-3-14**]  10:04 PM
                             [**2110-3-15**]  01:18 AM
                             [**2110-3-15**]  03:04 AM
                             [**2110-3-15**]  02:50 PM
                             [**2110-3-16**]  03:42 AM
   WBC
   2.9
   3.3
   6.3
   Hct
   24.3
   28.9
   30.5
   31.5
   Plt
   62
   79
   144
   Cr
   3.5
   3.4
   3.2
   TropT
   0.21
   0.21
   0.17
   TCO2
   26
   Glucose
   110
   99
   202
   Other labs: PT / PTT / INR:13.3/30.6/1.1, CK / CKMB /
   Troponin-T:28//0.17, ALT / AST:[**4-17**], Alk Phos / T Bili:41/0.5, Lactic
   Acid:1.8 mmol/L, LDH:200 IU/L, Ca++:8.6 mg/dL, Mg++:3.3 mg/dL, PO4:3.9
   mg/dL
   Imaging: CT head
   IMPRESSION:
   1. No intracranial hemorrhage or displacement of normal structures.
   2. Interval partial opacification of right mastoid air cells,
   dependently.
   Left mastoid air cells well aerated.
   3. Unchanged left maxillary sinus mucus retention cyst.
   Assessment and Plan
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 CARDIAC ARREST
   54 yo M with EtOH cirrhosis s/p Orthotopic liver transplant, HTN, h/o
   C. diff, admitted with pseudomonal urosepsis c/b ARF, now transferred
   to the MICU for brief unresponsiveness, Polymorphic VT in the setting
   of prolonged QT interval thought [**12-30**] combination of reglan and
   prograf.
   #Ventricular tachycardia s/p cardioversion x2: Most likely due to
   significantly prolonged QT interval thought due to combination of
   prograf and reglan in the setting of worsened renal function.  He was
   cardioverted [**12-30**] unresponsiveness in the setting of VT.  Has been on
   dopamine gtt to maintain HR in 70
s-80
s while waiting for medications
   to wear off.    Echocardiogram was done which showed global systolic
   dysfunction most likely [**12-30**] cardioversion.
   - continue dopamine gtt today, plan to wean on [**Month/Day (2) 570**], goal HR in the
   70
   - Monitor on tele
   - Serial EKGs
   - Holding any nodal agents
   - Holding medications known to cause prolonged QT interval:
   metoclopramide, celexa, ? tacro
   - Strict control of electrolytes, [**Hospital1 **]
   -will need repeat echocardiogram prior to discharge to see if EF
   recovers
   .
   #ESLD [**12-30**] ETOH cirrhosis s/p Liver transplant, s/p Liver Biospy:
   Patient had uncomplicated liver biospy to assess for rejection.
   Patient had unresponsiveness after wards.  Hct stable currently and no
   abdominal pain.  Must consider bleed in this patient.
   - f/u biopsy
   - Serial Hcts
   - Active T/S, consented
   - Xplant [**Doctor First Name 458**] following
   - Liver ultrasound vs Ct abd if Hct dropping/abd pain
   -change to rapamune (weaning tacro off), check [**Last Name (un) **] level in the am
   .
   Pancytopenia:  Appears relatively stable.  Cause likely related to
   increased Tacro levels
   - Cont to trend
   .
   Acute Renal Failure: Patient was initally thought to be in ATN with
   urosepsis.  Cr improved but has now worsened.  Unclear if related to
   Colistin and/or ATN.  ? AIN vs Tacro.  Renal following
   - Appreciate renal recs:
   - Cont to trend BUN/Cr
   - ? renal biospy in the near future
   - Holding diuretics for now
   .
   s/p Liver Transplant: LFTs and synthetic function relatively stable.
   s/p biospy today.
   - Liver following
   - Received 4mg rapamune yesterday, plan for 2mg today. Prograf
   decreased to 0.5mg daily with plans to wean off. Check rapamune level
   on [**Last Name (un) 570**].
   - xplant following
   - Monitor liver function closely
   .
   Urosepsis: Resolved.  Finished courses of antibiotics
   (meropenem/colistin)
   - Cont PO vanco x7 days through [**3-18**] empirically
   .
   FEN: Tube feeds for nutritional needs, close monitoring of lytes
   .
   Access: PICC, PIV
   .
   Ppx: heparin SQ, PPI, bowel regimen
   .
   Code: FULL, discussed with family
   .
   Dispo: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2110-3-14**] 08:00 PM
   PICC Line - [**2110-3-14**] 08:35 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2110-03-16 09:17:00 Physician Attending Progress Note
Chief Complaint: VT
   HPI: 54 year-old man s/p OTL Tx and renal failure here with long QT,
   who progressed to polymorphic VT.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2110-3-15**] 02:00 PM- Showed global
   hypokinesis with EF 20%.
   Evening EKG with shorter QT, maintained on dopamine.  Suspected reglan
   and tacrolimus.  Switching to rapammune.
   Transient bradycardia with nausea, dopamine slighlty increased.
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Ibuprofen
   Unknown;
   Ciprofloxacin
   Tosades ;
   Last dose of Antibiotics:
   Vancomycin (oral) - [**2110-3-15**] 12:15 PM
   Infusions:
   Dopamine - 12.5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2110-3-16**] 07:57 AM
   Pantoprazole (Protonix) - [**2110-3-16**] 08:45 AM. MS Contin 15mg PO BID,
   Bactrim, flomax, pregabalin
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-3-16**] 08:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.6
   HR: 80 (70 - 90) bpm
   BP: 118/79(89) {106/69(78) - 126/89(98)} mmHg
   RR: 14 (8 - 19) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,794 mL
                                                                    390 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                    964 mL
                                                                    390 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,985 mL
                                                                  1,030 mL
   Urine:
                                                                  1,885 mL
                                                                  1,030 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                   -191 mL
                                                                   -640 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG:
   Physical Examination: Older than stated age.  JVP 7.  NAD.  RRR, S1S2,
   no murmur.  Lungs clear anteriorly.  Abdomen soft, with good bowel
   sounds.  Legs with 1+ edema, warm.
   Labs / Radiology
   10.2 g/dL
   144 K/uL
   100 mg/dL
   3.0 mg/dL
   24 mEq/L
   4.7 mEq/L
   31 mg/dL
   104 mEq/L
   148 mEq/L
   31.5 %
   6.3 K/uL
        [image002.jpg]
                             [**2110-3-14**]  10:04 PM
                             [**2110-3-15**]  01:18 AM
                             [**2110-3-15**]  03:04 AM
                             [**2110-3-15**]  02:50 PM
                             [**2110-3-16**]  03:42 AM
   WBC
   2.9
   3.3
   6.3
   Hct
   24.3
   28.9
   30.5
   31.5
   Plt
   62
   79
   144
   Cr
   3.5
   3.4
   3.2
   3.0
   TropT
   0.21
   0.21
   0.17
   TCO2
   26
   Glucose
   110
   99
   202
   100
   Other labs: PT / PTT / INR:13.3/30.6/1.1, CK / CKMB /
   Troponin-T:28//0.17, ALT / AST:[**4-17**], Alk Phos / T Bili:41/0.5, Lactic
   Acid:1.8 mmol/L, LDH:200 IU/L, Ca++:8.5 mg/dL, Mg++:3.2 mg/dL, PO4:3.9
   mg/dL
   Assessment and Plan
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE): Improving.  Continue to renally dose meds.  Per renal check
   urine osms.
 CARDIAC ARREST: VT due to long QTc.  Wean dopamine back to 10.  Check
   EKG.  Keep K and Mg++ replete.  Cardiology service following closely.
   Will need follow-up echo.
   Liver Transplant: Transition to rapammune.  Dosing per level and liver
   tx service recs.
   Urosepsis: resolved.  On PO vanc for C.Diff prophylaxis.
   Pain: Switch standing MS Contin to prn oxycodone.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2110-3-14**] 08:00 PM
   PICC Line - [**2110-3-14**] 08:35 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: PPI
   VAP: N/A
   Comments:
   Communication:  Comments: with patient
   Code status: Full
   Disposition : ICU while on dopamine
   Total time spent: 35 mins

2110-03-17 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2110-3-16**] 09:29 AM
   -Cards recommended continuing dopamine, may consider weaning tomorrow
   if QTc stable
   -Restarted tube feeds
   -Gave free water for hypernatremia
   -discontinued ms contin, continued prn MSIR
   -weaning prograf, continue rapamune
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Unknown;
   Aspirin
   Unknown;
   Ibuprofen
   Unknown;
   Ciprofloxacin
   Tosades ;
   Last dose of Antibiotics:
   Vancomycin - [**2110-3-15**] 12:15 PM
   Infusions:
   Dopamine - 10 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2110-3-16**] 08:45 AM
   Heparin Sodium (Prophylaxis) - [**2110-3-16**] 08:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-3-17**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98.1
   HR: 73 (68 - 102) bpm
   BP: 122/84(92) {104/67(76) - 135/86(95)} mmHg
   RR: 9 (9 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,183 mL
                                                                    327 mL
   PO:
                                                                    920 mL
             TF:
   IVF:
                                                                  2,263 mL
                                                                    327 mL
   Blood products:
   Total out:
                                                                  2,800 mL
                                                                  1,140 mL
   Urine:
                                                                  2,800 mL
                                                                  1,140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    383 mL
                                                                   -813 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   General Appearance:sitting up in bed eating, No acute distress A&O x3
   Eyes / Conjunctiva: PERRL
   Cardiovascular: RRR s1 s2 no appreciable murmur
   Lungs: CTAB
   Abdominal: Soft, Non-tender, distended, hypoactive bowel sounds
   Ext: warm, pneumoboots in place, DP
s palpable
   Labs / Radiology
   116 K/uL
   9.9 g/dL
   174 mg/dL
   2.7 mg/dL
   26 mEq/L
   4.8 mEq/L
   29 mg/dL
   104 mEq/L
   138 mEq/L
   29.9 %
   4.1 K/uL
        [image002.jpg]
                             [**2110-3-14**]  10:04 PM
                             [**2110-3-15**]  01:18 AM
                             [**2110-3-15**]  03:04 AM
                             [**2110-3-15**]  02:50 PM
                             [**2110-3-16**]  03:42 AM
                             [**2110-3-16**]  04:56 PM
                             [**2110-3-17**]  03:30 AM
   WBC
   2.9
   3.3
   6.3
   4.1
   Hct
   24.3
   28.9
   30.5
   31.5
   29.9
   Plt
   62
   79
   144
   116
   Cr
   3.5
   3.4
   3.2
   3.0
   2.9
   2.7
   TropT
   0.21
   0.21
   0.17
   TCO2
   26
   Glucose
   110
   99
   [**Telephone/Fax (3) 8747**]
   174
   Other labs: PT / PTT / INR:13.0/34.5/1.1, CK / CKMB /
   Troponin-T:28//0.17, ALT / AST:[**2-13**], Alk Phos / T Bili:45/0.4, Lactic
   Acid:1.8 mmol/L, Albumin:3.1 g/dL, LDH:192 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.6 mg/dL, PO4:4.5 mg/dL
   MRSA [**3-14**]: Pending
   CT Head [**3-15**]:
   IMPRESSION:
   1. No intracranial hemorrhage or displacement of normal structures.
   2. Interval partial opacification of right mastoid air cells,
   dependently.
   Left mastoid air cells well aerated.
   3. Unchanged left maxillary sinus mucus retention cyst.
   Assessment and Plan
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 CARDIAC ARREST
   54 yo M with EtOH cirrhosis s/p Orthotopic liver transplant, HTN, h/o
   C. diff, admitted with pseudomonal urosepsis c/b ARF, now transferred
   to the MICU for brief unresponsiveness, Polymorphic VT in the setting
   of prolonged QT interval thought [**12-30**] combination of reglan and
   prograf.
   #Ventricular tachycardia s/p cardioversion x2: Most likely due to
   significantly prolonged QT interval thought due to combination of
   prograf and reglan in the setting of worsened renal function.  He was
   cardioverted [**12-30**] unresponsiveness in the setting of VT.  Has been on
   dopamine gtt to maintain HR in 70
s-80
s while waiting for medications
   to wear off.    Echocardiogram was done which showed global systolic
   dysfunction most likely [**12-30**] cardioversion.
   - continue dopamine gtt today, plan to wean on Monday, goal HR in the
   70
   - Monitor on tele
   - Serial EKGs
   - Holding any nodal agents
   - Holding medications known to cause prolonged QT interval:
   metoclopramide, celexa, ? tacro
   - Strict control of electrolytes, [**Hospital1 **] lytes with repletion
   -will need repeat echocardiogram prior to discharge to see if EF
   recovers
   .
   #ESLD [**12-30**] ETOH cirrhosis s/p Liver transplant, s/p Liver Biospy:
   Patient had uncomplicated liver biospy to assess for rejection.  Hct
   stable afterward with no evidence of bleeding.  Pancytopenia appears
   stable
   - f/u biopsy
   -daily HCT
   - Xplant [**Doctor First Name 458**] following
   -change to rapamune (weaning tacro off), check [**Last Name (un) **] level in the am
   -monitor daily LFT
s while immunosupp regimen being changed
   .
   Acute Renal Failure: followed by renal consult service, thought [**12-30**] ATN
   from urosepsis vs toxicity from colistin.  Creatinine has been
   improving since admission to ICU possibly [**12-30**] dopamine vs. just
   resolving ATN.
   - Appreciate renal recs
   - Cont to trend BUN/Cr
   - holding diuretics for now and IVF for now
   .
   Chronic Leg Pain
 [**12-30**] neuropathy and pt reports prior hip fx, on ms
   contin as well as morphine for breakthrough, currently pain free and
   not requiring prn
s.  Given that narcotics have contributed to slowed
   gi motility and need for reglan which likely contributed to VT, would
   likely benefit from weaning narcotics as tolerated.
   -d/c ms contin and change to prn morphine as needed
   -monitor narcotic requirements and titrate as needed
   .
   Urosepsis: Resolved.  Finished courses of antibiotics
   (meropenem/colistin)
   - Cont PO vanco x7 days through [**3-18**] empirically given h/o cdiff
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2110-3-14**] 08:00 PM
   PICC Line - [**2110-3-14**] 08:35 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU

2110-03-18 07:41:00 Physician Resident Progress Note
Chief Complaint: - [**Last Name (un) **] level 4.6 -> D/C tacrolimus
   - QTc stable -> decreased dopamine to 8/hr per cards recs
   24 Hour Events:
 EKG - At [**2110-3-17**] 09:00 AM
 EKG - At [**2110-3-17**] 04:33 PM
 EKG - At [**2110-3-18**] 06:12 AM
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Ibuprofen
   Unknown;
   Ciprofloxacin
   Tosades ;
   Last dose of Antibiotics:
   Vancomycin - [**2110-3-18**] 06:11 AM
   Infusions:
   Dopamine - 8 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2110-3-17**] 08:11 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-3-18**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.4
   HR: 73 (68 - 96) bpm
   BP: 102/70(77) {88/67(73) - 122/96(100)} mmHg
   RR: 13 (11 - 18) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,394 mL
                                                                    406 mL
   PO:
                                                                    560 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    834 mL
                                                                    166 mL
   Blood products:
   Total out:
                                                                  3,335 mL
                                                                  1,020 mL
   Urine:
                                                                  3,185 mL
                                                                  1,020 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,941 mL
                                                                   -614 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   General Appearance:lying comfortably in bed, No acute distress A&O x3
   Eyes / Conjunctiva: PERRL, anicteric
   Cardiovascular: RRR s1 s2 no appreciable murmur
   Lungs: CTAB
   Abdominal: Soft, Non-tender, distended, hypoactive bowel sounds
   Ext: warm, pneumoboots in place, DP
s palpable
   Labs / Radiology
   126 K/uL
   10.1 g/dL
   164 mg/dL
   2.6 mg/dL
   26 mEq/L
   4.8 mEq/L
   26 mg/dL
   106 mEq/L
   140 mEq/L
   31.6 %
   3.5 K/uL
        [image002.jpg]
                             [**2110-3-14**]  10:04 PM
                             [**2110-3-15**]  01:18 AM
                             [**2110-3-15**]  03:04 AM
                             [**2110-3-15**]  02:50 PM
                             [**2110-3-16**]  03:42 AM
                             [**2110-3-16**]  04:56 PM
                             [**2110-3-17**]  03:30 AM
                             [**2110-3-17**]  03:12 PM
                             [**2110-3-18**]  04:00 AM
   WBC
   2.9
   3.3
   6.3
   4.1
   3.5
   Hct
   24.3
   28.9
   30.5
   31.5
   29.9
   31.6
   Plt
   62
   79
   144
   116
   126
   Cr
   3.5
   3.4
   3.2
   3.0
   2.9
   2.7
   2.6
   2.6
   TropT
   0.21
   0.21
   0.17
   TCO2
   26
   Glucose
   110
   99
   [**Telephone/Fax (3) 8747**]
   174
   139
   164
   Other labs: PT / PTT / INR:13.3/34.9/1.1, CK / CKMB /
   Troponin-T:28//0.17, ALT / AST:0/18, Alk Phos / T Bili:44/0.3, Lactic
   Acid:1.8 mmol/L, Albumin:3.1 g/dL, LDH:176 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   54 yo M with EtOH cirrhosis s/p Orthotopic liver transplant, HTN, h/o
   C. diff, admitted with pseudomonal urosepsis c/b [**Hospital 8767**] transferred to
   the MICU for brief unresponsiveness, Polymorphic VT in the setting of
   prolonged QT interval thought [**12-30**] combination of reglan and prograf.
   #Ventricular tachycardia s/p cardioversion x2: Most likely due to
   significantly prolonged QT interval thought due to combination of
   prograf and reglan in the setting of worsened renal function.  He was
   cardioverted [**12-30**] unresponsiveness in the setting of VT.  Has been on
   dopamine gtt to maintain HR in 70
s-80
s while waiting for medications
   to wear off.    Echocardiogram was done which showed global systolic
   dysfunction most likely [**12-30**] cardioversion.
   - continue dopamine gtt today, plan to wean today, will touch base with
   cardiology re: goal given that QTc
s stable and not improving
   - monitor on tele, serial EKGs
   - holding nodal agents, medications known to cause prolonged QT
   interval: metoclopramide, celexa, tacro
   - strict control of electrolytes, [**Hospital1 **] lytes with repletion
   - will need repeat echocardiogram prior to discharge to see if EF
   recovers
   .
   #ESLD [**12-30**] ETOH cirrhosis s/p Liver transplant, s/p Liver Biospy:
   Patient had uncomplicated liver biospy to assess for rejection.  Hct
   stable afterward with no evidence of bleeding.  Pancytopenia appears
   stable.
   - f/u biopsy results
   - daily HCT
   - Xplant [**Doctor First Name 458**] following, Hepatology following, appreciate recs
   - no tacrolimus, continue rapamune, f/u levels and continue morning
   [**Last Name (un) **] levels
   - monitor daily LFT
s while immunosupp regimen being changed
   .
   #Acute Renal Failure: followed by renal consult service, thought [**12-30**]
   ATN from urosepsis vs toxicity from colistin.  Creatinine has been
   improving since admission to ICU possibly [**12-30**] dopamine vs. just
   resolving ATN.
   - Appreciate renal recs
   - Cont to trend BUN/Cr
   - holding diuretics for now and IVF for now
   .
   #Chronic Leg Pain
 [**12-30**] neuropathy and pt reports prior hip fx, on ms
   contin as well as morphine for breakthrough, currently pain free and
   not requiring prn
s.  Given that narcotics have contributed to slowed
   gi motility and need for reglan which likely contributed to VT, would
   likely benefit from weaning narcotics as tolerated.
   - continue PRN morphine as needed
   - monitor narcotic requirements and titrate as needed
   .
   #Urosepsis: Resolved.  Finished courses of antibiotics
   (meropenem/colistin)
   - cont PO vanco x7 days through [**3-18**] empirically given h/o cdiff
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2110-3-14**] 08:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2110-03-18 09:28:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: ventricular tachycardia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2110-3-17**] 09:00 AM
 EKG - At [**2110-3-17**] 04:33 PM
 EKG - At [**2110-3-18**] 06:12 AM
   - Dopa wean
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Ibuprofen
   Unknown;
   Ciprofloxacin
   Tosades ;
   Last dose of Antibiotics:
   Vancomycin - [**2110-3-18**] 06:11 AM
   Infusions:
   Dopamine - 8 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2110-3-17**] 08:11 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-3-18**] 09:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.3
C (97.4
   HR: 67 (67 - 88) bpm
   BP: 110/73(82) {88/67(73) - 122/96(100)} mmHg
   RR: 18 (11 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,394 mL
                                                                    440 mL
   PO:
                                                                    560 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    834 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  3,335 mL
                                                                  1,420 mL
   Urine:
                                                                  3,185 mL
                                                                  1,420 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,941 mL
                                                                   -980 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   126 K/uL
   164 mg/dL
   2.6 mg/dL
   26 mEq/L
   4.8 mEq/L
   26 mg/dL
   106 mEq/L
   140 mEq/L
   31.6 %
   3.5 K/uL
        [image002.jpg]
                             [**2110-3-14**]  10:04 PM
                             [**2110-3-15**]  01:18 AM
                             [**2110-3-15**]  03:04 AM
                             [**2110-3-15**]  02:50 PM
                             [**2110-3-16**]  03:42 AM
                             [**2110-3-16**]  04:56 PM
                             [**2110-3-17**]  03:30 AM
                             [**2110-3-17**]  03:12 PM
                             [**2110-3-18**]  04:00 AM
   WBC
   2.9
   3.3
   6.3
   4.1
   3.5
   Hct
   24.3
   28.9
   30.5
   31.5
   29.9
   31.6
   Plt
   62
   79
   144
   116
   126
   Cr
   3.5
   3.4
   3.2
   3.0
   2.9
   2.7
   2.6
   2.6
   TropT
   0.21
   0.21
   0.17
   TCO2
   26
   Glucose
   110
   99
   [**Telephone/Fax (3) 8747**]
   174
   139
   164
   Other labs: PT / PTT / INR:13.3/34.9/1.1, CK / CKMB /
   Troponin-T:28//0.17, ALT / AST:0/18, Alk Phos / T Bili:44/0.3, Lactic
   Acid:1.8 mmol/L, Albumin:3.1 g/dL, LDH:176 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE):
     - Improvement slowing.  ? stablilizing at new, higher level
 CARDIAC ARREST:
     - VT due to long QTc.
     - Wean dopamine, check with cards re: ? d/c
    Liver Transplant:
     -Immune supp per Liver Tx service
    Urosepsis:
   - resolved.
   - On PO vanc for C.Diff prophylaxis.
    Pain:
   - Switch standing MS Contin to prn oxycodone.
   Remainder of plan per resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2110-3-14**] 08:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:
   ------ Protected Section ------
   Patient is critically ill.
   Time spent on care: 40min
   ------ Protected Section Addendum Entered By:[**Name (NI) 391**] [**Last Name (NamePattern1) 509**], MD
   on:[**2110-3-18**] 10:31 ------

2110-03-19 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - [**Month (only) 38**] dopamine to 6cc/hr, tried to go to 4 but Bp low, HR 60 and ATc
   inc from 450->520
   - BP variable down to SBP 85, responded to boluses
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Ibuprofen
   Unknown;
   Ciprofloxacin
   Tosades ;
   Last dose of Antibiotics:
   Vancomycin - [**2110-3-18**] 06:11 AM
   Infusions:
   Dopamine - 5.2 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2110-3-18**] 02:22 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-3-19**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 64 (61 - 78) bpm
   BP: 91/56(64) {75/49(58) - 111/78(84)} mmHg
   RR: 13 (12 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,040 mL
                                                                    636 mL
   PO:
                                                                    690 mL
                                                                     50 mL
   TF:
                                                                     40 mL
                                                                    204 mL
   IVF:
                                                                  1,310 mL
                                                                    182 mL
   Blood products:
   Total out:
                                                                  2,775 mL
                                                                    590 mL
   Urine:
                                                                  2,775 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -735 mL
                                                                     46 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   General Appearance:lying comfortably in bed, No acute distress A&O x3
   Eyes / Conjunctiva: PERRL, anicteric
   Cardiovascular: RRR s1 s2 no appreciable murmur
   Lungs: CTAB
   Abdominal: Soft, Non-tender, distended, hypoactive bowel sounds
   Ext: warm, pneumoboots in place, DP
s palpable
   Labs / Radiology
   107 K/uL
   9.5 g/dL
   110 mg/dL
   2.4 mg/dL
   27 mEq/L
   4.6 mEq/L
   25 mg/dL
   104 mEq/L
   137 mEq/L
   28.7 %
   3.2 K/uL
        [image002.jpg]
                             [**2110-3-14**]  10:04 PM
                             [**2110-3-15**]  01:18 AM
                             [**2110-3-15**]  03:04 AM
                             [**2110-3-15**]  02:50 PM
                             [**2110-3-16**]  03:42 AM
                             [**2110-3-16**]  04:56 PM
                             [**2110-3-17**]  03:30 AM
                             [**2110-3-17**]  03:12 PM
                             [**2110-3-18**]  04:00 AM
                             [**2110-3-19**]  05:20 AM
   WBC
   2.9
   3.3
   6.3
   4.1
   3.5
   3.2
   Hct
   24.3
   28.9
   30.5
   31.5
   29.9
   31.6
   28.7
   Plt
   62
   79
   144
   116
   126
   107
   Cr
   3.5
   3.4
   3.2
   3.0
   2.9
   2.7
   2.6
   2.6
   2.4
   TropT
   0.21
   0.21
   0.17
   TCO2
   26
   Glucose
   110
   99
   [**Telephone/Fax (3) 8747**]
   174
   139
   164
   110
   Other labs: PT / PTT / INR:13.2/35.6/1.1, CK / CKMB /
   Troponin-T:28//0.17, ALT / AST:[**12-15**], Alk Phos / T Bili:48/0.2, Lactic
   Acid:1.8 mmol/L, Albumin:2.8 g/dL, LDH:167 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 CARDIAC ARREST
   54 yo M with EtOH cirrhosis s/p Orthotopic liver transplant, HTN, h/o
   C. diff, admitted with pseudomonal urosepsis c/b [**Hospital 8767**] transferred to
   the MICU for brief unresponsiveness, Polymorphic VT in the setting of
   prolonged QT interval thought [**12-30**] combination of reglan and prograf.
   .
   # Hypotension: asymptomatic, mentating well, MAP 69.  Responds to fluid
   boluses. No evidence of bleeding ,HCT stable. Was previously sepstic
   but no septic physiology now, no obvious source and  looks well however
   is immunosupressed.  EF was 20% recently after code, may have cardiac
   component.
   - try to wean dopamine
   - keep MABp >65, SBP >85 and IVF as needed
   - pan culture
   - stop flomax
   - consider repeat echo in several days
   - consider reinstating flutrocortisone
   #Ventricular tachycardia s/p cardioversion x2: Most likely due to
   significantly prolonged QT interval thought due to combination of
   prograf and reglan in the setting of worsened renal function.  He was
   cardioverted [**12-30**] unresponsiveness in the setting of VT.  Has been on
   dopamine gtt to maintain HR in 70
s-80
s while waiting for medications
   to wear off.    Echocardiogram was done which showed global systolic
   dysfunction most likely [**12-30**] cardioversion.
   - continue dopamine gtt today, plan to wean today, will touch base with
   cardiology re: goal given that QTc
s stable and not improving
   - monitor on tele, serial EKGs
   - holding nodal agents, medications known to cause prolonged QT
   interval: metoclopramide, celexa, tacro
   - strict control of electrolytes, [**Hospital1 **] lytes with repletion
   - will need repeat echocardiogram prior to discharge to see if EF
   recovers
   .
   #ESLD [**12-30**] ETOH cirrhosis s/p Liver transplant, s/p Liver Biospy:
   Patient had uncomplicated liver biospy to assess for rejection.  Hct
   stable afterward with no evidence of bleeding.  Pancytopenia appears
   stable.
   - f/u biopsy results
   - daily HCT
   - Xplant [**Doctor First Name 458**] following, Hepatology following, appreciate recs
   - no tacrolimus, continue rapamune, f/u levels and continue morning
   [**Last Name (un) **] levels
   - monitor daily LFT
s while immunosupp regimen being changed
   .
   #Acute Renal Failure: followed by renal consult service, thought [**12-30**]
   ATN from urosepsis vs toxicity from colistin.  Creatinine has been
   improving since admission to ICU possibly [**12-30**] dopamine vs. just
   resolving ATN.
   - Appreciate renal recs
   - Cont to trend BUN/Cr
   - holding diuretics for now and IVF for now
   .
   #Chronic Leg Pain
 [**12-30**] neuropathy and pt reports prior hip fx, on ms
   contin as well as morphine for breakthrough, currently pain free and
   not requiring prn
s.  Given that narcotics have contributed to slowed
   gi motility and need for reglan which likely contributed to VT, would
   likely benefit from weaning narcotics as tolerated.
   - continue PRN morphine as needed
   - monitor narcotic requirements and titrate as needed
   .
   #Urosepsis: Resolved.  Finished courses of antibiotics
   (meropenem/colistin)
   - cont PO vanco x7 days through [**3-18**] empirically given h/o cdiff - > dc
   today
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2110-3-18**] 08:00 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2110-3-14**] 08:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2110-03-19 11:02:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: ventricular tachycardia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - QTc prolongation during attempted dopa wean
   -SBP low, requiring IVF boluses.  Also note drop in BP with attempt to
   wean Dopa
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Ibuprofen
   Unknown;
   Ciprofloxacin
   Tosades ;
   Last dose of Antibiotics:
   Vancomycin - [**2110-3-18**] 06:11 AM
   Infusions:
   Dopamine - 5.2 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2110-3-18**] 02:22 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-3-19**] 11:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.9
C (96.6
   HR: 62 (61 - 76) bpm
   BP: 92/62(69) {75/49(58) - 111/78(84)} mmHg
   RR: 15 (12 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,040 mL
                                                                    731 mL
   PO:
                                                                    690 mL
                                                                     50 mL
   TF:
                                                                     40 mL
                                                                    225 mL
   IVF:
                                                                  1,310 mL
                                                                    256 mL
   Blood products:
   Total out:
                                                                  2,775 mL
                                                                  1,010 mL
   Urine:
                                                                  2,775 mL
                                                                  1,010 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -735 mL
                                                                   -279 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   ant)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, No(t) Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   107 K/uL
   110 mg/dL
   2.4 mg/dL
   27 mEq/L
   4.6 mEq/L
   25 mg/dL
   104 mEq/L
   137 mEq/L
   28.7 %
   3.2 K/uL
        [image002.jpg]
                             [**2110-3-14**]  10:04 PM
                             [**2110-3-15**]  01:18 AM
                             [**2110-3-15**]  03:04 AM
                             [**2110-3-15**]  02:50 PM
                             [**2110-3-16**]  03:42 AM
                             [**2110-3-16**]  04:56 PM
                             [**2110-3-17**]  03:30 AM
                             [**2110-3-17**]  03:12 PM
                             [**2110-3-18**]  04:00 AM
                             [**2110-3-19**]  05:20 AM
   WBC
   2.9
   3.3
   6.3
   4.1
   3.5
   3.2
   Hct
   24.3
   28.9
   30.5
   31.5
   29.9
   31.6
   28.7
   Plt
   62
   79
   144
   116
   126
   107
   Cr
   3.5
   3.4
   3.2
   3.0
   2.9
   2.7
   2.6
   2.6
   2.4
   TropT
   0.21
   0.21
   0.17
   TCO2
   26
   Glucose
   110
   99
   [**Telephone/Fax (3) 8747**]
   174
   139
   164
   110
   Other labs: PT / PTT / INR:13.2/35.6/1.1, CK / CKMB /
   Troponin-T:28//0.17, ALT / AST:[**12-15**], Alk Phos / T Bili:48/0.2, Lactic
   Acid:1.8 mmol/L, Albumin:2.8 g/dL, LDH:167 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 Hypotension
     -requiring dopa and IVF boluses (dopa originally started for QTc
   prolongation)
     -pan cx
     -check cxr
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE):
     - Improvement slowing but still trending downward

 CARDIAC ARREST:
     - VT due to long QTc.
     - Wean dopamine as tolerated though appears to have developed septic
   physiology so new indication as pressor
    Liver Transplant:
     -Immune supp per Liver Tx service
   - On PO vanc for C.Diff prophylaxis.
    Pain:
   - Switch standing MS Contin to prn oxycodone.
   Remainder of plan per resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2110-3-14**] 08:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2110-03-20 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - dopa weaned down, QTC 480's, but then went up again to 500 when dopa
   decreased to 2.
   - spoke to cards who agreed that no need for dopa if QTC stays less
   than 500 and while HR is low in 60's
   - Nutrition recs to increased TF to 80 cc/hr
   - checked a U Prot/Cre ratio per renal recs from [**3-18**]
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Ibuprofen
   Unknown;
   Ciprofloxacin
   Tosades ;
   Last dose of Antibiotics:
   Vancomycin - [**2110-3-18**] 06:11 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2110-3-19**] 08:06 AM
   Heparin Sodium (Prophylaxis) - [**2110-3-19**] 01:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: Dry mouth
   Nutritional Support: Tube feeds
   Flowsheet Data as of  [**2110-3-20**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.5
C (97.7
   HR: 73 (61 - 78) bpm
   BP: 92/59(66) {80/49(59) - 110/69(76)} mmHg
   RR: 15 (10 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,410 mL
                                                                    794 mL
   PO:
                                                                    200 mL
             TF:
                                                                    385 mL
                                                                    573 mL
   IVF:
                                                                    525 mL
                                                                    121 mL
   Blood products:
   Total out:
                                                                  2,415 mL
                                                                    790 mL
   Urine:
                                                                  2,415 mL
                                                                    640 mL
   NG:
   150 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,005 mL
                                                                      4 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   General Appearance:lying comfortably in bed, No acute distress A&O x3
   Eyes / Conjunctiva: PERRL, anicteric
   Cardiovascular: RRR s1 s2 no appreciable murmur
   Lungs: CTAB
   Abdominal: Soft, Non-tender, distended, hypoactive bowel sounds
   Ext: warm, +edema in feet, pneumoboots in place, DP
s palpable
   Labs / Radiology
   96 K/uL
   9.6 g/dL
   110 mg/dL
   2.4 mg/dL
   24 mEq/L
   4.4 mEq/L
   25 mg/dL
   106 mEq/L
   138 mEq/L
   28.9 %
   4.0 K/uL
        [image002.jpg]
                             [**2110-3-15**]  01:18 AM
                             [**2110-3-15**]  03:04 AM
                             [**2110-3-15**]  02:50 PM
                             [**2110-3-16**]  03:42 AM
                             [**2110-3-16**]  04:56 PM
                             [**2110-3-17**]  03:30 AM
                             [**2110-3-17**]  03:12 PM
                             [**2110-3-18**]  04:00 AM
                             [**2110-3-19**]  05:20 AM
                             [**2110-3-20**]  03:10 AM
   WBC
   3.3
   6.3
   4.1
   3.5
   3.2
   4.0
   Hct
   28.9
   30.5
   31.5
   29.9
   31.6
   28.7
   28.9
   Plt
   79
   144
   116
   126
   107
   96
   Cr
   3.4
   3.2
   3.0
   2.9
   2.7
   2.6
   2.6
   2.4
   2.4
   TropT
   0.21
   0.17
   TCO2
   26
   Glucose
   99
   [**Telephone/Fax (3) 8798**]74
   139
   164
   110
   110
   Other labs: PT / PTT / INR:12.7/35.4/1.1, CK / CKMB /
   Troponin-T:28//0.17, ALT / AST:[**12-15**], Alk Phos / T Bili:48/0.2, Lactic
   Acid:1.8 mmol/L, Albumin:2.8 g/dL, LDH:167 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   54 yo M with EtOH cirrhosis s/p Orthotopic liver transplant, HTN, h/o
   C. diff, admitted with pseudomonal urosepsis c/b [**Hospital 8767**] transferred to
   the MICU for brief unresponsiveness, Polymorphic VT in the setting of
   prolonged QT interval thought [**12-30**] combination of reglan and prograf.
   # Hypotension: asymptomatic, mentating well, MAP 69.  Responds to fluid
   boluses. No evidence of bleeding ,HCT stable. Was previously sepstic
   but no septic physiology now, no obvious source and  looks well however
   is immunosupressed.  EF was 20% recently after code, may have cardiac
   component.
   - continue to wean dopamine as tolerated by QTc and BP
   - keep MAP >60, SBP >85
   - holding off on IVF boluses unless appears intravascularly deplete,
   goal to keep I/O even
   - f/u Cx data
   - holding flomax
   - consider repeat echo in several days
   - consider restarting flutrocortisone
   #Ventricular tachycardia s/p cardioversion x2: Most likely due to
   significantly prolonged QT interval thought due to combination of
   prograf and reglan in the setting of worsened renal function.  He was
   cardioverted [**12-30**] unresponsiveness in the setting of VT.  Has been on
   dopamine gtt to maintain HR in 70
s-80
s while waiting for medications
   to wear off.    Echocardiogram was done which showed global systolic
   dysfunction most likely [**12-30**] cardioversion.
   - continue dopamine gtt today, wean as tolerated by QTc
   - appreciate cardiology involvement
   - monitor on tele, serial EKGs
   - holding nodal agents, medications known to cause prolonged QT
   interval: metoclopramide, celexa, tacro
   - strict control of electrolytes, [**Hospital1 **] lytes with repletion
   - will need repeat echocardiogram prior to discharge to see if EF
   recovers
   #ESLD [**12-30**] ETOH cirrhosis s/p Liver transplant, s/p Liver Biospy:
   Patient had uncomplicated liver biospy to assess for rejection.  Hct
   stable afterward with no evidence of bleeding.  Pancytopenia appears
   stable.
   - f/u biopsy results
   - daily HCTs
   - Xplant [**Doctor First Name 458**] following, Hepatology following, appreciate recs
   - no tacrolimus, continue rapamune, f/u levels and continue morning
   [**Last Name (un) **] levels
   - monitor daily LFT
s while immunosupp regimen being changed
   #Acute Renal Failure: followed by renal consult service, thought [**12-30**]
   ATN from urosepsis vs toxicity from colistin.  Creatinine has been
   improving since admission to ICU possibly [**12-30**] dopamine vs. just
   resolving ATN.
   - Appreciate renal recs
   - Cont to trend BUN/Cr
   - holding diuretics for now
   #Chronic Leg Pain
 [**12-30**] neuropathy and pt reports prior hip fx, on ms
   contin as well as morphine for breakthrough, currently pain free and
   not requiring prn
s.  Given that narcotics have contributed to slowed
   gi motility and need for reglan which likely contributed to VT, would
   likely benefit from weaning narcotics as tolerated.
   - PRN morphine as needed, titrate down as tolerated
   #Urosepsis: Resolved.  Finished courses of antibiotics
   (meropenem/colistin). Now completed 7-day course of empiric PO Vanc
   given h/o C.diff.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2110-3-19**] 10:00 PM 80 mL/hour
   Glycemic Control:  ISS
   Lines:
   PICC Line - [**2110-3-14**] 08:35 PM
   Prophylaxis:
   DVT: SQH
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2110-03-21 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   c/o nausea and abdominal fullness but no abd pain; still noting diffuse
   CP s/p CPR several days ago
   24 Hour Events:
 EKG - At [**2110-3-20**] 10:00 AM
 EKG - At [**2110-3-20**] 04:26 PM
   - weaned off dopamine, no change in QTc or in BP
   - one episode of hypoglycemia to 39, asymptomatic
   - UA+, spoke with transplant teams and ID, who felt that should not
   treat unless have identified a specific organism growing from urine
   culture, so no antibiotics started overnight
   - given low-dose IV morphine PRN chest pain
   - could not tolerate tubefeeds, + emesis x1; ordered CT-Abd/Pelv w/
   pre-hydration given Creatinine
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Ibuprofen
   Unknown;
   Ciprofloxacin
   Tosades ;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2110-3-20**] 06:00 PM
   Heparin Sodium (Prophylaxis) - [**2110-3-20**] 08:20 PM
   Other medications:
   150 mEq Sodium Bicarbonate/ 1000 ml D5W
   Albuterol 0.083% Neb Soln
   DOPamine
   Docusate Sodium
   Heparin
   Insulin
   Miconazole Powder 2%
   Morphine Sulfate IR
   Morphine Sulfate
   Pantoprazole
   Pregabalin
   Senna
   Sirolimus
   Sulfameth/Trimethoprim SS
   Flowsheet Data as of  [**2110-3-21**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.6
   HR: 70 (63 - 94) bpm
   BP: 101/68(75) {80/47(56) - 120/80(85)} mmHg
   RR: 20 (13 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,240 mL
                                                                    279 mL
   PO:
                                                                     60 mL
             TF:
                                                                    647 mL
                                                                    210 mL
   IVF:
                                                                    381 mL
                                                                     69 mL
   Blood products:
   Total out:
                                                                  2,845 mL
                                                                    510 mL
   Urine:
                                                                  2,445 mL
                                                                    510 mL
   NG:
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,605 mL
                                                                   -231 mL
   Physical Examination
   General Appearance: lying comfortably in bed, No acute distress A&O x3
   Eyes / Conjunctiva: PERRL, anicteric
   Cardiovascular: RRR s1 s2 no appreciable murmur
   Lungs: CTAB
   Abdominal: Soft, Non-tender, distended, hypoactive bowel sounds
   Ext: warm, +edema in feet, pneumoboots in place, DP
s palpable
   Labs / Radiology
   105 K/uL
   9.4 g/dL
   96 mg/dL
   2.2 mg/dL
   22 mEq/L
   4.3 mEq/L
   24 mg/dL
   106 mEq/L
   137 mEq/L
   28.6 %
   4.5 K/uL
        [image002.jpg]
                             [**2110-3-15**]  02:50 PM
                             [**2110-3-16**]  03:42 AM
                             [**2110-3-16**]  04:56 PM
                             [**2110-3-17**]  03:30 AM
                             [**2110-3-17**]  03:12 PM
                             [**2110-3-18**]  04:00 AM
                             [**2110-3-19**]  05:20 AM
                             [**2110-3-20**]  03:10 AM
                             [**2110-3-20**]  05:09 PM
                             [**2110-3-21**]  03:27 AM
   WBC
   6.3
   4.1
   3.5
   3.2
   4.0
   4.5
   Hct
   30.5
   31.5
   29.9
   31.6
   28.7
   28.9
   28.6
   Plt
   144
   116
   126
   107
   96
   105
   Cr
   3.2
   3.0
   2.9
   2.7
   2.6
   2.6
   2.4
   2.4
   2.2
   2.2
   TropT
   0.17
   Glucose
   [**Telephone/Fax (3) 8798**]74
   139
   164
   110
   110
   106
   96
   Other labs: PT / PTT / INR:13.5/39.0/1.2, ALT / AST:[**5-18**], Alk Phos / T
   Bili:46/0.3, Differential-Neuts:71.2 %, Band:0.0 %, Lymph:17.0 %,
   Mono:6.4 %, Eos:5.0 %, Lactic Acid:1.8 mmol/L, Albumin:2.8 g/dL,
   LDH:199 IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Microbiology: Urine Cx [**3-20**] pending
   ECG: stable QTc ~470
   Assessment and Plan
 URINARY TRACT INFECTION (UTI)
 HYPOGLYCEMIA
   -  Dc SSI
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ALTERATION IN NUTRITION
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 CARDIAC ARREST
   54 yo M with EtOH cirrhosis s/p Orthotopic liver transplant, HTN, h/o
   C. diff, admitted with pseudomonal urosepsis c/b [**Hospital 8767**] transferred to
   the MICU for brief unresponsiveness, Polymorphic VT in the setting of
   prolonged QT interval thought [**12-30**] combination of reglan and prograf.
   # Hypotension:  Resolved, SBP in low 100
s. asymptomatic, mentating
   well.  Responds to fluid boluses. No evidence of bleeding, HCT stable.
   Was previously sepstic  but no septic physiology now, no obvious source
   and  looks well however is immunosupressed.  EF was 20% recently after
   code, may have cardiac component. Now weaned off Dopa and stable.
   - goal MAP >65, SBP >85
   - holding off on IVF boluses unless appears intravascularly deplete,
   goal to keep I/O even
   - f/u Cx data
   - f/u Abdominal CT as below
   - holding flomax
   - consider repeat echo in several days
   - low threshold to start antibiotics if appears infected
   #Ventricular tachycardia s/p cardioversion x2: Most likely due to
   significantly prolonged QT interval thought due to combination of
   prograf and reglan in the setting of worsened renal function.  He was
   cardioverted [**12-30**] unresponsiveness in the setting of VT.  Has been on
   dopamine gtt to maintain HR in 70
s-80
s while waiting for medications
   to wear off.    Echocardiogram was done which showed global systolic
   dysfunction most likely [**12-30**] cardioversion.  Now weaned off dopamine gtt
   with stable QTc. No ectopy either.
   - appreciate cardiology involvement
   - monitor on tele, serial EKGs
   - holding nodal agents, medications known to cause prolonged QT
   interval: metoclopramide, celexa, tacro
   - strict control of electrolytes with repletion
   - will need repeat echocardiogram prior to discharge to see if EF
   recovers
   #Inability to tolerate TFs: Unclear etiology. Pt feels "full" with
   feeds and nauseous, with vomiting. Possibly related to an underlying
   abdominal process. SBO unlikely w/o distension and passing. [**Month (only) 60**] have
   ileus. Is having a small amount of diarrhea
   - CT-Abd/Plv today to eval for intra-abdominal process
   - send for c.diff
   - low threshold to start antibiotics if appears infected
   #Urosepsis: Resolved.  Finished courses of antibiotics
   (meropenem/colistin). Now completed 7-day course of empiric PO Vanc
   given h/o C.diff. +UA yesterday, but not treating given that it looks
   improved from old UAs and per ID's suggestion.
   - f/u Urine Cx sent [**3-20**]
   - low threshold to start antibiotics if appears infected: ? Meropenem &
   Colistin
   #Acute Renal Failure: Cont to improve 2.4->2.2.  Followed by renal
   consult service, thought [**12-30**] ATN from urosepsis vs toxicity from
   colistin.  Creatinine has been improving since admission to ICU
   possibly [**12-30**] dopamine vs. just resolving ATN.
   - Appreciate renal recs
   - Cont to trend BUN/Cr
   - holding diuretics for now
   #ESLD [**12-30**] ETOH cirrhosis s/p Liver transplant, s/p Liver Biospy:
   Patient had uncomplicated liver biospy to assess for rejection.  Hct
   stable afterward with no evidence of bleeding.  Pancytopenia appears
   stable.
   - f/u biopsy results
   - daily HCTs
   - Xplant [**Doctor First Name 458**] following, Hepatology following, appreciate recs
   - no tacrolimus, continue rapamune, f/u levels and continue morning
   [**Last Name (un) **] levels
   - monitor daily LFT
s while immunosupp regimen being changed
   #Chronic Leg Pain
 [**12-30**] neuropathy and pt reports prior hip fx, on ms
   contin as well as morphine for breakthrough, currently pain free and
   not requiring prn
s.  Given that narcotics have contributed to slowed
   gi motility and need for reglan which likely contributed to VT, would
   likely benefit from weaning narcotics as tolerated.
   - PRN morphine as needed, titrate down as tolerated
   ICU Care
   Nutrition:
   Comments: Holding tube feeds for CT abd
   Glycemic Control:  has had hypoglycemia and does not have diabetes,
   will dc SSI
   Lines:
   PICC Line - [**2110-3-14**] 08:35 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: call out

2110-03-21 08:42:00 Physician Attending Progress Note
Chief Complaint: ventricular tachycardia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 EKG - At [**2110-3-20**] 10:00 AM
 EKG - At [**2110-3-20**] 04:26 PM
   Off Pressors, did have episode of hypoglycemia with 1 amp D 50.  + UA
   but improved compared to prior.  + Nitrites.  Transplant and ID did not
   recommend treating until culutures return.    Some morphine for chest
   pain but resolved.  Restarted tube feeds but did not tolerate had
   another episode of emisis.  Getting repeat CT scan.
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Ibuprofen
   Unknown;
   Ciprofloxacin
   Tosades ;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2110-3-20**] 06:00 PM
   Heparin Sodium (Prophylaxis) - [**2110-3-20**] 08:20 PM
   Other medications:
   hep Sq
   colace
   protonix
   bactrim
   pregabalin
   sirolimus
   RISS
   Changes to medical and family history: No changes
   Review of systems is unchanged from admission except as noted below
   Review of systems: Nausea resolved mild LLQ with diarrhea
   Flowsheet Data as of  [**2110-3-21**] 08:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98.1
   HR: 76 (63 - 94) bpm
   BP: 107/65(75) {80/47(56) - 120/80(85)} mmHg
   RR: 21 (13 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,240 mL
                                                                    698 mL
   PO:
                                                                     60 mL
             TF:
                                                                    647 mL
                                                                    210 mL
   IVF:
                                                                    381 mL
                                                                    488 mL
   Blood products:
   Total out:
                                                                  2,845 mL
                                                                    710 mL
   Urine:
                                                                  2,445 mL
                                                                    710 mL
   NG:
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,605 mL
                                                                    -12 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///22/
   Physical Examination
    General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   ant)
   Abdominal: Soft, mild tenderness LLQ, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Cool
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   105 K/uL
   96 mg/dL
   2.2 mg/dL
   22 mEq/L
   4.3 mEq/L
   24 mg/dL
   106 mEq/L
   137 mEq/L
   28.6 %
   4.5 K/uL
        [image002.jpg]
                             [**2110-3-15**]  02:50 PM
                             [**2110-3-16**]  03:42 AM
                             [**2110-3-16**]  04:56 PM
                             [**2110-3-17**]  03:30 AM
                             [**2110-3-17**]  03:12 PM
                             [**2110-3-18**]  04:00 AM
                             [**2110-3-19**]  05:20 AM
                             [**2110-3-20**]  03:10 AM
                             [**2110-3-20**]  05:09 PM
                             [**2110-3-21**]  03:27 AM
   WBC
   6.3
   4.1
   3.5
   3.2
   4.0
   4.5
   Hct
   30.5
   31.5
   29.9
   31.6
   28.7
   28.9
   28.6
   Plt
   144
   116
   126
   107
   96
   105
   Cr
   3.2
   3.0
   2.9
   2.7
   2.6
   2.6
   2.4
   2.4
   2.2
   2.2
   TropT
   0.17
   Glucose
   [**Telephone/Fax (3) 8798**]74
   139
   164
   110
   110
   106
   96
   Other labs: PT / PTT / INR:13.5/39.0/1.2, CK / CKMB /
   Troponin-T:28//0.17, ALT / AST:[**5-18**], Alk Phos / T Bili:46/0.3,
   Differential-Neuts:71.2 %, Band:0.0 %, Lymph:17.0 %, Mono:6.4 %,
   Eos:5.0 %, Lactic Acid:1.8 mmol/L, Albumin:2.8 g/dL, LDH:199 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 Hypotension
     -improved pressures today
     - dopa off

 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE):
     - Improvement slowing
     - seems to be mobilizing fluid, keep even
     -Would avoid IV contrast

 CARDIAC ARREST:
     - VT due to long QTc.
     -QT improved
  Liver Transplant:
     -Immune supp per Liver Tx service
     - Off PO vanc for C.Diff prophylaxis for 3 days.
  Abdominal pain diarrhea:
   -CT scan PO contrast with antiemetics.
   -Send C.Diff
  Urology:
   -Held Flomax
   -Will need to ensure voiding when foley removed.

 Pain:
   - Switch standing MS Contin to prn oxycodone.
   Remainder of plan per resident note
   ICU Care
   Nutrition:
   Glycemic Control:  D
c insulin SS.
   Lines:
   PICC Line - [**2110-3-14**] 08:35 PM
   Prophylaxis:
   DVT:    Hep SQ
   Stress ulcer:  Protonix
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : Floor
   Total time spent: